US06706725B1
h) (E)-5-{4-[2-(3,4-bis(tert-Butyldimethylsilanyloxy-methyl)phenyl)ethyl]-2-thienyl}-4-heptenoic Acid
In a manner similar to that of Example 6(i), by reaction of 3 g (5.6 mmol) of 1-{4-[2-(3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl)ethyl]-2-thienyl}-1-propanone with 3.6 g (8.4 mmol) of (3-carboxy-propyl)triphenylphosphonium bromide and 1.9 g (17 mmol) of potassium tert-butoxide, the desired product is obtained in the form of a yellow oil (m=1.7 g, Y=50%).

reactant | 1-{4-[2-(3,4-bis(tert-butyldimethylsilanyloxymethyl)phenyl)ethyl]-2-thienyl}-1-propanone | 5.6 mmol, 3 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)CCC=1C=C(SC1)C(CC)=O | C29H48O3SSi2
reactant | (3-carboxy-propyl)triphenylphosphonium bromide | 8.4 mmol, 3.6 g | [Br-].C(=O)(O)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 17 mmol, 1.9 g | CC(C)([O-])C.[K+]
product | (E)-5-{4-[2-(3,4-bis(tert-Butyldimethylsilanyloxy-methyl)phenyl)ethyl]-2-thienyl}-4-heptenoic Acid | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1CO[Si](C)(C)C(C)(C)C)CCC=1C=C(SC1)/C(=C/CCC(=O)O)/CC | C33H54O4SSi2
